US04100193
Preparation of 1-[1,5-Di-(bicyclo[2.2.2]oct-2-yl)-3-pentyl]-1,5,9-triazanonane Trihydrochloride
Also prepared by this method in an analogous manner regarding molar quantities and reaction conditions are 1-[1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propyl]-1,5,9-triazanonane trihydrochloride from 1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propanone and 3,3'-iminobispropylamine; 1-[1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propyl]-1,4,7,10-tetraazadecane tetrahydrochloride from 1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propanone and triethylenetetramine; 1-[1,7-di-(bicyclo[2.2.2-oct-2-yl)-4-heptyl]-1,5,9-triazanonane trihydrochloride from 1,7-di-(bicyclo[2.2.2]oct-2-yl)-4-heptanone and 3,3'-iminobispropylamine and 1-[2,6-di-(bicyclo[2.2.2]oct-2-yl)-4-heptyl]-1,5,9-triazanonane trihydrochloride from 2,6-di-(bicyclo[2.2.2]oct-2-yl)-4-heptanone and 3,3'-iminobispropylamine.

reactant | 1-[1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propyl]-1,5,9-triazanonane trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)CC2)CC(CC2C1CCC(C2)CC1)NCCCNCCCN
reactant | 1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propanone | C12C(CC(CC1)CC2)CC(CC2C1CCC(C2)CC1)=O | C19H30O
reactant | 3,3'-iminobispropylamine | C(CN)CNCCCN | C6H17N3
reactant | 1-[1,3-di-(bicyclo[2.2.2]oct-2-yl)-2-propyl]-1,4,7,10-tetraazadecane tetrahydrochloride | Cl.Cl.Cl.Cl.C12C(CC(CC1)CC2)CC(CC2C1CCC(C2)CC1)NCCNCCNCCN
reactant | triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | 1,7-di-(bicyclo[2.2.2]oct-2-yl)-4-heptanone | C12C(CC(CC1)CC2)CCCC(CCCC2C1CCC(C2)CC1)=O | C23H38O
reactant | 1-[2,6-di-(bicyclo[2.2.2]oct-2-yl)-4-heptyl]-1,5,9-triazanonane trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)CC2)C(C)CC(CC(C)C2C1CCC(C2)CC1)NCCCNCCCN
reactant | 2,6-di-(bicyclo[2.2.2]oct-2-yl)-4-heptanone | C12C(CC(CC1)CC2)C(C)CC(CC(C)C2C1CCC(C2)CC1)=O | C23H38O
product | 1-[1,5-Di-(bicyclo[2.2.2]oct-2-yl)-3-pentyl]-1,5,9-triazanonane Trihydrochloride | Cl.Cl.Cl.C12C(CC(CC1)CC2)CCC(CCC2C1CCC(C2)CC1)NCCCNCCCN | InChI=1S/C27H51N3.3ClH/c28-15-1-16-29-17-2-18-30-27(13-11-25-19-21-3-7-23(25)8-4-21)14-12-26-20-22-5-9-24(26)10-6-22;;;/h21-27,29-30H,1-20,28H2;3*1H
